Vs1 1 0 DC 3
R1 1 2 0.5
C1 2 0 5
C2 2 3 7
L2 3 4 11
L1 0 3 9
I1 0 4 DC 13
.end

This is the circuit 'More complex RLC circuit' in the problem set. (example 2 for how to handle inductors).
